data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4672,5327,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15](=[O:16])[NH:17][CH3:18])=[N+:19]([CH3:20])[CH-:21][C:22]([CH3:23])=[O:24].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:21]([C:22]([CH3:23])=[O:24])[N:19]([CH3:20])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,32.928910211360154,-19.80596286889925
4233,4843,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][CH-:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:19](=[O:20])[O:21][CH3:22])[NH:15][CH:16]1[C:17]#[N:18],water,298.15,22.17550362111885,-15.254712495689477
1641,1812,[CH3:14][NH:15][C:16](=[O:17])[N-:18][NH+:19]=[C:20]([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[O:26][CH3:27].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[N:18]([C:16]([NH:15][CH3:14])=[O:17])[NH:19][C:20]2([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[O:26][CH3:27],water,298.15,27.295742474527497,-0.9579151868558028
3223,3639,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[N-:9][NH+:10]=[C:11]([C:12]#[N:13])[C:14]([CH3:15])=[O:16]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[N:9]([C:7]([NH:6][CH3:5])=[O:8])[NH:10][C:11]1([C:12]#[N:13])[C:14]([CH3:15])=[O:16],water,298.15,29.43416741710492,-10.908129212563644
1553,1719,[CH3:18][O:19][C:20](=[O:21])[C-:22]([C:23]#[N:24])[NH+:25]=[CH:26][C:27]#[N:28].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[CH:26]([C:27]#[N:28])[NH:25][C:22]3([C:20]([O:19][CH3:18])=[O:21])[C:23]#[N:24],water,298.15,13.376524328687204,-37.95790536375517
1247,1363,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([N+:17]#[C:18][C:19](=[O:20])[O:21][CH3:22])[C:23]([CH3:24])=[O:25].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:23]([CH3:24])=[O:25])[N:17]=[C:18]2[C:19](=[O:20])[O:21][CH3:22],water,298.15,17.823848305463308,-47.60146694650184
884,957,[CH3:13][NH:14][C:15](=[O:16])[N:17]=[NH+:18][N-:19][C:20](=[O:21])[O:22][CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[N:17]([C:15]([NH:14][CH3:13])=[O:16])[NH:18][N:19]2[C:20](=[O:21])[O:22][CH3:23],water,298.15,22.783711108658064,-33.7414322511688
363,394,[CH3:12][CH-:13][NH+:14]=[CH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[N:1]#[C:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[CH:13]([CH3:12])[NH:14][CH:15]2[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,2.88081150177014,-31.575626878441
1030,1123,[CH3:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[NH+:22][CH-:23][C:24]#[N:25].[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:19]([C:17]([CH3:16])=[O:18])([C:20]#[N:21])[NH:22][CH:23]2[C:24]#[N:25],water,298.15,18.6557395457102,-4.035243439979585
4260,4874,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c:12]1[nH+:13][c-:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[c:21](=[O:22])[o:23]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]1([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[NH:13][C:12]2([CH3:11])[O:23][C:21]1=[O:22],water,298.15,31.250109362018257,11.703298086574016
5187,5886,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[O+:22][C-:23]([C:24]([CH3:25])=[O:26])[C:27](=[O:28])[O:29][CH3:30]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:23]([C:24]([CH3:25])=[O:26])([C:27](=[O:28])[O:29][CH3:30])[O:22][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,11.410131953295949,-27.71804290777571
305,331,[CH3:1][C:2](=[O:3])[C:4]([CH3:5])=[C:6]([CH3:7])[CH3:8].[CH3:9][NH:10][C:11](=[O:12])[c:13]1[nH+:14][c-:15]([CH3:16])[c:17](=[O:18])[o:19]1>>[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]([CH3:7])([CH3:8])[C:13]2([C:11]([NH:10][CH3:9])=[O:12])[NH:14][C:15]1([CH3:16])[C:17](=[O:18])[O:19]2,water,298.15,20.869342349498613,-2.290040044147408
